US05728708
50 mg (0.143 mmol) of N-(3-trifluoromethyl-phenyl)-4-(2-chloro4-pyridyl)-2-pyrimidineamine are stirred for 44 h at 100° in 1 ml of 3-amino-1-propanol. Concentration by evaporation and chromatography (methylene chloride:methanol=9:1) give N-(3-trifluoromethyl-phenyl)-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine; Rf =0.1 (methylene chloride:methanol=95:5), FAB-MS: 390, m.p. 158°-163°.

reactant | N-(3-trifluoromethyl-phenyl)-4-(2-chloro4-pyridyl)-2-pyrimidineamine | 0.143 mmol, 50 mg | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl)(F)F | C16H10ClF3N4
reactant | 3-amino-1-propanol | 1 ml | NCCCO | C3H9NO
product | N-(3-trifluoromethyl-phenyl)-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCCO)(F)F | C19H18F3N5O
